US07132426B2
Step 4: Preparation of 1-(2-Fluoro-4-methanesulfonyl-phenyl)-4-[1-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-yloxy]-1H-pyrazolo[3,4-d]pyrimidine (Compound A198).
1-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-ol (338 mg, 1.6 mmol) and sodium hydride (87 mg, 3.66 mmol) were stirred together in dry THF (2 mL) at room temperature for 30 minutes. 4-Chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine was then added and the reaction continued to stir at room temperature for 45 minutes. Its progress was monitored by thin layer chromatography and LCMS. The reaction was treated with water and the desired compound was extracted with ethyl acetate. Organic layer was evaporated in vacuo. Purification by HPLC provided the desired Compound A198 as a white solid (600 mg, 98%). Exact mass calculated for C22H24FN7O4S 501.53, found 502.2 (MH+).

reactant | 1-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-ol | 1.6 mmol, 338 mg | C(C)(C)C1=NOC(=N1)N1CCC(CC1)O | C10H17N3O2
reactant | sodium hydride | 3.66 mmol, 87 mg | [H-].[Na+]
reactant | 4-Chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | ClC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C12H8ClFN4O2S
reactant | water | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-Fluoro-4-methanesulfonyl-phenyl)-4-[1-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-yloxy]-1H-pyrazolo[3,4-d]pyrimidine | FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2OC2CCN(CC2)C2=NC(=NO2)C(C)C | C22H24FN7O4S
